US04190729
A one gram quantity of Co(acetate)2. 4H2O and 9 grams triphenylphosphine oxide were charged to an autoclave with 100 cc methanol and 30 cc methylnaphthalene. The reactor was pressured to 3200 psi with an approximately equimolar mixture of hydrogen and carbon monoxide and heated to 180° C. with stirring. The reaction was allowed to proceed for 5 hours. The reactor was cooled and vented, and the reaction product was analyzed and shown to contain ethanol (21.3%), methyl acetate (9.8%), dimethylacetal (15.9%) and acetic acid (5.1%). The products were distilled and the cobalt remained in a soluble form in the distillation residue which consisted primarily of methylnaphthalene. The absence of a solid coating or precipitate on the distillation flask was noted. The distillation residue was returned to the reactor with additional methanol, and found to display high catalytic activity under carbonylation conditions as employed in this example. Thus it is demonstrated that the catalyst can be retained in soluble form by use of phosphine oxide stabilizer, and recycled in a form suitable for use upon application of carbonylation conditions. Similar results to the foregoing can be obtained if tributylphosphine oxide or other tertiary phosphine oxides are substituted for the triphenylphosphine oxide.

reactant | triphenylphosphine oxide | 9 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | methylnaphthalene | 30 cc | CC1=CC=CC2=CC=CC=C12 | C11H10
reactant | hydrogen | [H][H] | H2
reactant | carbon monoxide | [C]=O | CO
reactant | methyl acetate | C(C)(=O)OC | C3H6O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | 100 cc | CO | CH4O
product | tributylphosphine oxide | C(CCC)P(CCCC)(CCCC)=O | C12H27OP
